US04277470
(b) 3-(2-Methoxyphenyl)-spiro[bicyclo[2.2.1]-heptane-2,2'-pyrrolidin]-5'-one
0.2 mole of methyl β-[3-(2-methoxyphenyl)-2-nitrobicyclo[2.2.1]-hept-5-en-2-yl]-propionate is dissolved in 800 ml of ethanol and, after adding 2 spatulas of Raney nickel, is hydrogenated at 50° C. and under 70 bars for 24 hours. The catalyst is filtered off, the solvent is evaporated off in a rotary evaporator and the residue is recrystallized from isopropanol. Colorless crystals of melting point 260° C.

reactant | methyl β-[3-(2-methoxyphenyl)-2-nitrobicyclo[2.2.1]-hept-5-en-2-yl]-propionate | 0.2 mole | COC1=C(C=CC=C1)C1C(C2C=CC1C2)([N+](=O)[O-])CCC(=O)OC | C18H21NO5
solvent | ethanol | 800 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 3-(2-Methoxyphenyl)-spiro[bicyclo[2.2.1]-heptane-2,2'-pyrrolidin]-5'-one | COC1=C(C=CC=C1)C1C2CCC(C2)C12NC(CC2)=O | C17H21NO2
